US06864279B2
A solution of 4-hydroxy-chromen-2-one (2.0 g), aqueous formaldehyde (37%, 0.37 g), Meldrum's acid (1.77 g) and ammonium acetate (0.95 g) in ethanol (75 mL) was heated to reflux for 6 hours, then cooled to room temperature. The reaction mixture was conc. in vacuo to give the crude as yellow oil, which was purified by column chromatography to provide 3-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester as colorless oil (1.2 g).

reactant | 4-hydroxy-chromen-2-one | 2.0 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | formaldehyde | 0.37 g | C=O | CH2O
reactant | Meldrum's acid | 1.77 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | ammonium acetate | 0.95 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester | 1.2 g | C(C)OC(CCC=1C(OC2=CC=CC=C2C1O)=O)=O | C14H14O5
